US07067506B2
Step 2: (3S)-3-Amino-1-(4-fluoro-benzyl)-pyrrolidine.
A solution of (3S)-3-(tert -butoxycarbonylamino)-1-(4-fluoro-benzyl)-pyrrolidine (400 mg, 1.36 mmol) was stirred in 15 mL of formic acid at room temperature. After 3 h, the clear colorless solution was concentrated to dryness and the residue was taken-up in 20 mL of EtOAc and washed with 10 mL of 5% NH40H, followed by 10 mL of brine. The solution was then dried over MgSO4, filtered and concentrated to give 240 mg (91%) of product, as a yellow oil. 1H-NMR (400 MHz, CDCl3) δ7.28 (m, 2H), 6.99 (m, 2H), 3.56 (d, J =6.2Hz, 2H), 3.47-3.53 (m, 1H), 2.67-2.71 (m, 2H), 2.42-2.48 (m, 1H), 2.28-2.31 (m, 1H), 2.21-2.28 (m, 1H), 1.59 (s, 2H, NH2), 1.43-1.52 (m, 1H).

reactant | (3S)-3-(tert -butoxycarbonylamino)-1-(4-fluoro-benzyl)-pyrrolidine | 1.36 mmol, 400 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)CC1=CC=C(C=C1)F | C16H23FN2O2
solvent | formic acid | 15 mL | C(=O)O | CH2O2
product | (3S)-3-Amino-1-(4-fluoro-benzyl)-pyrrolidine | 240 mg, 91% | N[C@@H]1CN(CC1)CC1=CC=C(C=C1)F | C11H15FN2
